US06437146B1
A mixture of 4-[2-(tert-butoxycarbonylamino)ethyl]-phenyl trifluoromethanesulfonate (6.11 g, 16.6 mmol), palladium(II) acetate (745 mg, 3.32 mmol), 1,3-bis-(diphenylphosphino)propane (1.37 g, 3.32 mmol), triethylamine (6.94 ml, 49.8 mmol), and MeOH (24ml) in DMF (60 ml) was purged for 30 min with carbon monoxide. The mixture was stirred under carbon monoxide atmosphere at 78° C. for 3 hours. After cooling the mixture to room temperature, the reaction mixture was diluted with EtOAc, washed with water, 1N-hydrochloric acid, water, saturated sodium hydrogencarbonate, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 4:1-3:1) to give methyl 4-[2-(tert-butoxycarbonylamino)ethyl]benzoate (3.52 g, 76%).

reactant | 4-[2-(tert-butoxycarbonylamino)ethyl]-phenyl trifluoromethanesulfonate | 16.6 mmol, 6.11 g | FC(S(=O)(=O)OC1=CC=C(C=C1)CCNC(=O)OC(C)(C)C)(F)F | C14H18F3NO5S
reactant | 1,3-bis-(diphenylphosphino)propane | 3.32 mmol, 1.37 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 49.8 mmol, 6.94 ml | C(C)N(CC)CC | C6H15N
reactant | MeOH | 24ml | CO | CH4O
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 3.32 mmol, 745 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-[2-(tert-butoxycarbonylamino)ethyl]benzoate | 3.52 g, 76% | C(C)(C)(C)OC(=O)NCCC1=CC=C(C(=O)OC)C=C1 | C15H21NO4
